US05171753
2-[(2-hydroxy-1,2-diphenylethyl)amino]acetic acid ethyl ester.
A stirred mixture of trans-stilbene oxide (6.48 g, 0.033 mol), and glycine ethyl ester (6.15 g, 0.0598 mol) was heated at 120° for 22 hours. The mixture was triturated with ether and filtered to remove some insoluble materials. The filtrate was concentrated to yield 6.83 g (69.1%) of oil which solidified into a waxy solid upon cooling. The compound was purified and characterized as the hydrochloride salt, mp 185°-187° C. (absolute ethanolisopropyl ether) [reported mp 167°, Can. J. Chem. 45, 2865 (1967)].

reactant | trans-stilbene oxide | 0.033 mol, 6.48 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | glycine ethyl ester | 0.0598 mol, 6.15 g | C(C)OC(CN)=O | C4H9NO2
product | 2-[(2-hydroxy-1,2-diphenylethyl)amino]acetic acid ethyl ester | 6.83 g, 69.1% | C(C)OC(CNC(C(C1=CC=CC=C1)O)C1=CC=CC=C1)=O | C18H21NO3
